US03952001
A mixture of 6.45 g. 3-ethylsulphonyl-1,2,4-triazole, 5.9 g. N-allyl-N-ethylcarbamoyl chloride, 6.5 ml. dry triethylamine and 80 ml. dry tetrahydrofuran was refluxed under anhydrous conditions for 6 hours. The reaction mixture was worked up as described in Example 1 to produce a solid residue which was recrystallized from benzene/petroleum ether, b.p. 40° - 60°C. to give 1-(N-allyl-N-ethylcarbamoyl)-3-ethylsulphonyl-1,2,4-triazole, m.p. 41° - 43°C.

reactant | 3-ethylsulphonyl-1,2,4-triazole | C(C)S(=O)(=O)C1=NNC=N1 | C4H7N3O2S
reactant | N-allyl-N-ethylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC | C6H10ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(N-allyl-N-ethylcarbamoyl)-3-ethylsulphonyl-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)S(=O)(=O)CC)CC | C10H16N4O3S
